US08389524B2
(b) 2,2,2-Trifluoro-N-[(3R)-3-pyrrolidinylmethyl]acetamide hydrochloride
To a 100 mL round-bottomed flask was added 1,1-dimethylethyl (3S)-3-{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate (830 mg, 2.80 mmol) in DCM (25 ml) at 25° C. to give a colorless solution. 4N HCl (3.50 ml, 14.01 mmol) in dioxane was added and the reaction was allowed to stir o/n. The reaction was concentrated under vacuum to give the desired compound as colorless oil which was used in the next reaction without further purification. Isolated 2,2,2-trifluoro-N-[(3R)-3-pyrrolidinylmethyl]acetamide (550 mg, 2.364 mmol, 84% yield).

reactant | 1,1-dimethylethyl (3S)-3-{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate | 2.80 mmol, 830 mg | FC(C(=O)NC[C@H]1CN(CC1)C(=O)OC(C)(C)C)(F)F | C12H19F3N2O3
reactant | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,2,2-Trifluoro-N-[(3R)-3-pyrrolidinylmethyl]acetamide hydrochloride | Cl.FC(C(=O)NC[C@H]1CNCC1)(F)F | InChI=1S/C7H11F3N2O.ClH/c8-7(9,10)6(13)12-4-5-1-2-11-3-5;/h5,11H,1-4H2,(H,12,13);1H/t5-;/m1./s1
